US04886885
(b) 3-(5-Cyano-2-thiophenyl)-2-propenol
Dimethylformamide (0.1 ml) was added to a stirred suspension of 3-(5-cyano-2-thiphenyl)-propenoic acid (3.7 g) in dry ether (100 ml) and dry tetrahydrofuran (100 ml) containing oxalyl chloride (2.2 ml). The mixture was stirred for 2 hours then the clear solution was decanted from a little dark tar and evaporated to give the crude acid chloride as a pale solid. A solution of this acid chloride in ether (50 ml) and tetrahydrofuran (50 ml) was added rapidly to a stirred suspension of sodium borohydride doped alumina (3.5 g sodium borohydride on 35 g alumina) in ether (100 ml) with cooling to keep at 15°-20° C. The mixture was stirred for 1 hour and then filtered. The filtrate was evaporated and the residue was chromatographed on silica-gel eluting with ether to give the product as a pale solid.

reactant | Dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | 3-(5-cyano-2-thiphenyl)-propenoic acid | 3.7 g | C(#N)C1=CC=C(S1)C=CC(=O)O | C8H5NO2S
reactant | oxalyl chloride | 2.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium borohydride | 3.5 g | [BH4-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-(5-Cyano-2-thiophenyl)-2-propenol | C(#N)C1=CC=C(S1)C=CCO | C8H7NOS
